US06949571B2
3-(2-Pyridyl)-5-bromo-2-methoxypyridine
100 ml of a dimethylformamide solution containing 6.3 g of 3,5-dibromo-2-methoxypyridine and 8.1 g of 2-tributyl stannyl pyridine was incorporated with 1.0 g of tetrakistriphenylphosphine palladium, followed by stirring at 120° C. for 2 hours in nitrogen atmosphere. After the mixture was returned to room temperature, the solvent was evaporated, and the residue was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (ethyl acetate/hexane=1:3), to give 2.8 g of the title compound as a pale yellow powder.

reactant | 3,5-dibromo-2-methoxypyridine | 6.3 g | BrC=1C(=NC=C(C1)Br)OC | C6H5Br2NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(2-Pyridyl)-5-bromo-2-methoxypyridine | 2.8 g | N1=C(C=CC=C1)C=1C(=NC=C(C1)Br)OC | C11H9BrN2O
